US08609656B2
(S)-2-Amino-N-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3,3-dimethylbutylamide hydrochloride (Table 1, Compound No. 101)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and tert-butoxycarbonyl-L-tert-butylglycine by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-L-tert-butylglycine | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C11H21NO4
product | (S)-2-Amino-N-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3,3-dimethylbutylamide hydrochloride | Cl.N[C@H](C[N-]C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C(C)(C)C | InChI=1S/C25H26ClF3N8O.ClH/c1-24(2,3)19(30)11-31-21-20-22(33-12-32-21)37(13-34-20)16-7-4-14(5-8-16)35-23(38)36-15-6-9-18(26)17(10-15)25(27,28)29;/h4-10,12-13,19H,11,30H2,1-3H3,(H3,31,32,33,35,36,38);1H/p-1/t19-;/m1./s1
